US07989463B2
Step (i): Synthesis of 2-Chloro-4-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidine
Morpholine (0.32 mL, 3.7 mmol) was added to a solution of 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine (0.5 g, 2.65 mmol) in anhydrous ethanol (5 mL) and stirred at a temperature in the range of 65° C. to 85° C. for 10 to 16 hours. Thereafter, the mixture was concentrated under reduced pressure and the crude was diluted with anhydrous ether. After standing at a temperature in the range of 5° C. to 10° C. for 2 hours, the precipitated solid was filtered and washed with ether. The solid was recrystallized from ethyl acetate to afford the title compound as a pale yellow solid (0.54 g, 86% yield).

reactant | Morpholine | 3.7 mmol, 0.32 mL | N1CCOCC1 | C4H9NO
reactant | 2,4-dichloro-6,7-dihydro-5H-cyclopentapyrimidine | 2.65 mmol, 0.5 g | ClC1=NC2=C(C(=N1)Cl)CCC2 | C7H6Cl2N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Chloro-4-morpholin-4-yl-6,7-dihydro-5H-cyclopentapyrimidine | 0.54 g, 86% yield | ClC1=NC2=C(C(=N1)N1CCOCC1)CCC2 | C11H14ClN3O
